US07214824B2
31(e): 2-[4-tert-Butyl-3-(2-methoxyethoxy)phenoxy]-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}acetamide
To a tetrahydrofuran (THF) (3 ml) solution of [4-tert-butyl-3-(2-methoxyethoxy)phenoxy]acetic acid (100 mg, 0.35 mmol) was added 1,1′-carbonyl-diimidazole (63 mg, 0.39 mmol) and the mixture was stirred for 1 hour at ambient temperature. To the mixture was added N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride (99 mg, 0.39 mmol) and triethyl amine (150 ul, 1.1 mmol) and the mixture was stirred for 1 hour at ambient temperature. After filtration to separate solvent and the resulting percipitate, the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane=1/1 to furnish 78 mg (46% yield) of the title compound as a white solid.

reactant | [4-tert-butyl-3-(2-methoxyethoxy)phenoxy]acetic acid | 0.35 mmol, 100 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1)OCCOC | C15H22O5
reactant | 1,1′-carbonyl-diimidazole | 0.39 mmol, 63 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride | 0.39 mmol, 99 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
reactant | triethyl amine | 1.1 mmol, 150 ul | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-[4-tert-Butyl-3-(2-methoxyethoxy)phenoxy]-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}acetamide | 78 mg, 46% yield | C(C)(C)(C)C1=C(C=C(OCC(=O)NCC2=CC(=C(C=C2)NS(=O)(=O)C)F)C=C1)OCCOC | C23H31FN2O6S
